US04051142
40 g of 3-carbomethoxy-2,6-dimethylpyr-4-one and 30.2 g of 4-chloroaniline are dissolved in 400 ml of toluene along with 400 mg of p-toluenesulfonic acid monohydrate. The reaction mixture is refluxed for four hours. The solvent is removed and the product crystallized from ether to yield 30 g of N-(4-chlorophenyl)-3-carbomethoxy-2,6-dimethylpyrid-4-one (m.p. 189°-90°).

reactant | 3-carbomethoxy-2,6-dimethylpyr-4-one | 40 g | C(=O)(OC)C1=C(OC(=CC1=O)C)C | C9H10O4
reactant | 4-chloroaniline | 30.2 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 400 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | N-(4-chlorophenyl)-3-carbomethoxy-2,6-dimethylpyrid-4-one | 30 g | ClC1=CC=C(C=C1)N1C(=C(C(C=C1C)=O)C(=O)OC)C | C15H14ClNO3
